US04218463
A solution of 1-(2-tetrahydropyranyl)-3-phenylacetamido-4-[2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone in methanol at 25° C. is treated with 0.1 molar equivalent of p-toluenesulfonic acid monohydrate. The solution is stirred for a period of 2 hours and then neutralized with 1 M pH 7 phosphate buffer. The product is extracted into ethyl acetate. The ethyl acetate solution is washed with brine, dried over magnesium sulfate and filtered. The filtrate is evaporated under reduced pressure to give 3-phenylacetamido-4-(2-hydroxyethyl)-2-azetidinone.

reactant | 1-(2-tetrahydropyranyl)-3-phenylacetamido-4-[2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone | O1C(CCCC1)N1C(C(C1CCOC1OCCCC1)NC(CC1=CC=CC=C1)=O)=O | C23H32N2O5
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | phosphate | 1 M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | methanol | CO | CH4O
product | 3-phenylacetamido-4-(2-hydroxyethyl)-2-azetidinone | C1(=CC=CC=C1)CC(=O)NC1C(NC1CCO)=O | C13H16N2O3
